US07572809B2
d) Preparation of (1-chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine
6-Methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-2H-isoquinolin-1-one (4.7 g, 0.017 mol) and POCl3 (60 ml) were sealed in 3 different bottles (20 ml). The mixture was heated at 150° C. for 15 minutes under microwave irradiation. The mixture was concentrated, and the residue was treated with 15 ml MeOH, stirred for 2 hours at room temperature. The solid was collected and dried to give product (3.4 g, 68% yield). LC-MS: 289 (MH+)

reactant | 6-Methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-2H-isoquinolin-1-one | 0.017 mol, 4.7 g | COC=1C=C2C=C(NC(C2=CC1)=O)NC1=NNC(=C1)C | C14H14N4O2
reactant | POCl3 | 60 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | (1-chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | 3.4 g, 68% yield | ClC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC(=C1)C | C14H13ClN4O
